US07435823B2
Step (d) Preparation of 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoic acid
To a solution of 5-fluoro-6-hydroxy-1-naphthoic acid (1 g, 4.87 mmol) in DMSO (5 mL), Cs2CO3 (4.75 g, 14.61 mmol) was added in one portion. The mixture was stirred at RT 10 min. To the suspension, 4-chloro-6,7-dimethoxyquinoline (1.09 g, 4.87 mmol) was added and the mixture heated to 140° C. O/N. The mixture was allowed to cool to RT, pH adjusted to 7 and the resulting solid filtered and rinsed with water. The title compound was obtained as a tan solid.

reactant | 5-fluoro-6-hydroxy-1-naphthoic acid | 4.87 mmol, 1 g | FC1=C2C=CC=C(C2=CC=C1O)C(=O)O | C11H7FO3
reactant | Cs2CO3 | 14.61 mmol, 4.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-6,7-dimethoxyquinoline | 4.87 mmol, 1.09 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoic acid | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=C2C=CC=C(C2=CC1)C(=O)O)F | C22H16FNO5
